US08536168B2
2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-propane-1,2-diol
Dissolve 4-(4-Benzyl-phthalazin-1-yl)-5′-isopropenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (100 mg, 0.237 mmol) in acetone (1.5 mL), t-Butanol (0.7 mL) and water (0.7 mL). Add K2OsO4 (0.79 mg, 0.0024 mmol) then NMO (30.5 mg, 0.26 mmol) and stir reaction for 16 h at room temperature. Quench with saturated sodium sulfite (1 mL) and extract with EtOAc. The residue is purified by flash chromatography on silica gel (MeOH/CH2Cl2) to afford the title compound (100 mg, 92%).

reactant | 4-(4-Benzyl-phthalazin-1-yl)-5′-isopropenyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.237 mmol, 100 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(=C)C | C26H26N6
reactant | NMO | 0.26 mmol, 30.5 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | t-Butanol | 0.7 mL | C(C)(C)(C)O | C4H10O
solvent | acetone | 1.5 mL | CC(=O)C | C3H6O
solvent | water | 0.7 mL | O | H2O
product | 2-[4-(4-Benzyl-phthalazin-1-yl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl-5′-yl]-propane-1,2-diol | 100 mg, 92% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(N=C1)C(CO)(C)O | C26H28N6O2
